US08685986B2
4-(Pyridazin-4-yl)benzyl alcohol
To a solution of 4-bromopyridazine (131 mg, 0.824 mmol) in 1,2-dimethoxyethane (16.4 ml) were added 4-hydroxymethylphenylboronic acid (189 mg, 1.24 mmol), potassium carbonate (517 mg, 3.74 mmol) and water (8.2 ml), which was deaerated under reduced pressure, followed by argon substitution. Tetrakis(triphenylphosphine)palladium (73.5 mg, 0.0636 mmol) was then added, followed by heating to reflux for 5 hours under argon atmosphere. After completion of the reaction, the reaction solution was concentrated under reduced pressure. The resulting residue was subjected to reversed phase column chromatography (column; Megabond Elut™ C18 (manufactured by Varian, Inc.), eluent; acetonitrile:water=0:1→1:4 (V/V), then methanol), and fractions containing the desired compound were concentrated under reduced pressure to afford the title compound (97.7 mg) as a slightly brown solid. (Yield: 64%)

reactant | 4-bromopyridazine | 0.824 mmol, 131 mg | BrC1=CN=NC=C1 | C4H3BrN2
reactant | 4-hydroxymethylphenylboronic acid | 1.24 mmol, 189 mg | OCC1=CC=C(C=C1)B(O)O | C7H9BO3
reactant | potassium carbonate | 3.74 mmol, 517 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | 8.2 ml | O | H2O
solvent | 1,2-dimethoxyethane | 16.4 ml | COCCOC | C4H10O2
catalyst | Tetrakis(triphenylphosphine)palladium | 0.0636 mmol, 73.5 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(Pyridazin-4-yl)benzyl alcohol | 97.7 mg, Yield: 64% | N1=NC=C(C=C1)C1=CC=C(CO)C=C1 | C11H10N2O
